US07906654B2
2-[(6-Amino-2-chloro-3-fluorophenyl)amino]ethanol
2-[(2-Chloro-3-fluoro-6-nitrophenyl)amino]ethanol (5.52 g, 22.7 mmol) is dissolved in MeOH (40.0 mL). A premixed solution of Na2S2O4 (13.8 g, 79.5 mmol) in water (40.0 mL) is added to the first solution. The resulting solution is stirred for 5 minutes at 60° C. followed by 2 hours at room temperature. The solvents are evaporated, and the resulting residue is suspended in a saturated solution of NaHCO3 (40.0 mL). The aqueous phase is extracted 4 times with EtOAc (4×40.0 mL). The combined organic phases are dried with MgSO4, filtered and concentrated. The product is sufficiently pure by 1H NMR (2.07 g, 45%). 1H NMR (400 MHz, DMSO-D6) δ ppm 2.99 (m, 2H) 3.32 (s, 1H) 3.48 (t, J=5.57 Hz, 2H) 4.09 (s, 1H) 4.73-4.95 (m, 2H) 6.55 (dd, J=8.79, 5.66 Hz, 1H) 6.71 (t, J=8.89 Hz, 1H).

reactant | 2-[(2-Chloro-3-fluoro-6-nitrophenyl)amino]ethanol | 22.7 mmol, 5.52 g | ClC1=C(C(=CC=C1F)[N+](=O)[O-])NCCO | C8H8ClFN2O3
reactant | Na2S2O4 | 79.5 mmol, 13.8 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | MeOH | 40.0 mL | CO | CH4O
solvent | water | 40.0 mL | O | H2O
product | 2-[(6-Amino-2-chloro-3-fluorophenyl)amino]ethanol | NC1=CC=C(C(=C1NCCO)Cl)F | C8H10ClFN2O
